US08021819B2
While cooling with ice, 10.0 g of dibenzothiophene-S-oxide synthesized in the above step (1) is added to 30 g of diphosphorus pentoxide/methanesulfonic acid (9/1), and further 10 ml of 2-phenylethyl acetate is added thereto. The reaction solution is stirred at room temperature for 6 hours, and then poured into ice water. The obtained aqueous solution is filtered, and 23 g of potassium iodide is added. Crystals precipitated are recovered by filtration to obtain 11.1 g of 5-[4-(2-acetoxyethyl)phenyl]dibenzothiophenium iodide. The obtained 11.1 g of 5-[4-(2-acetoxyethyl)phenyl]dibenzothiophenium iodide is dissolved in 200 ml of methanol, and 10.7 g of a 20% aqueous solution of tetramethylammonium hydroxide is added to the solution. After stirring the solution at room temperature for 2 hours, 9.6 g of triisopropylbenzenesulfonic acid is aded and the reaction solution is further stirred at room temperature for 30 minutes. Silver acetate (3.9 g) is added to the reaction solution and stirred at room temperature for 1 hour. After filtering the reaction solution, the mother liquor is distilled under reduced pressure. The crystals obtained are dissolved in chloroform, and washed with water three times. After distilling off chloroform under reduced pressure, the reaction product is recrystallized with ethyl acetate/acetonitrile (5/1), whereby 7.0 g of 5-[4-(2-hydroxy-ethyl)phenyl]dibenzothiophenium 2,4,6-triisopropylbenzene-sulfonate is obtained.

reactant | 5-[4-(2-acetoxyethyl)phenyl]dibenzothiophenium iodide | 11.1 g | [I-].C(C)(=O)OCCC1=CC=C(C=C1)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2
reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
reactant | triisopropylbenzenesulfonic acid | 9.6 g | C(C)(C)C1=C(C(=C(C=C1)S(=O)(=O)O)C(C)C)C(C)C | C15H24O3S
solvent | methanol | 200 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | Silver acetate | 3.9 g | C(C)(=O)[O-].[Ag+]
product | 5-[4-(2-hydroxy-ethyl)phenyl]dibenzothiophenium 2,4,6-triisopropylbenzene-sulfonate | 7.0 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)[O-].OCCC1=CC=C(C=C1)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2 | InChI=1S/C20H17OS.C15H24O3S/c21-14-13-15-9-11-16(12-10-15)22-19-7-3-1-5-17(19)18-6-2-4-8-20(18)22;1-9(2)12-7-13(10(3)4)15(19(16,17)18)14(8-12)11(5)6/h1-12,21H,13-14H2;7-11H,1-6H3,(H,16,17,18)/q+1;/p-1
